US05977134
The compound described in Example 26, Step 1 [1-(4-cyanobenzyl)-5-(chloromethyl)imidazole hydrochloride] (0.75 mmol, 0.20 g), 2-aminobenzimidazole (0.90 mmol, 0. 12 g) and diisopropylethylamine (2.25 mmol, 0.29 g) were dissolved in acetonitrile and placed in a nitrogen purged sealed tube and warmed at 80° C. for 18 hr. The precipitate was filtered off to yield 1-(4-cyanobenzyl)-5-(2-amino-1-benzimidazolylmethyl)imidazole.

reactant | 1-(4-cyanobenzyl)-5-(chloromethyl)imidazole hydrochloride | Cl.C(#N)C1=CC=C(CN2C=NC=C2CCl)C=C1
reactant | 2-aminobenzimidazole | 0.90 mmol, 12 g | NC=1NC2=C(N1)C=CC=C2 | C7H7N3
reactant | diisopropylethylamine | 2.25 mmol, 0.29 g | C(C)(C)N(CC)C(C)C | C8H19N
solvent | acetonitrile | C(C)#N | C2H3N
product | 1-(4-cyanobenzyl)-5-(2-amino-1-benzimidazolylmethyl)imidazole | C(#N)C1=CC=C(CN2C=NC=C2CC2(N=C3C(=N2)C=CC=C3)N)C=C1 | C19H16N6
